US04220647
1-(N-Benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dibenzyloxy-3,4-dihydroisoquinoline (7.0 g) was added to 99% ethanol (160 ml) and to the solution was gradually added sodium borohydride (2.2 g) under ice cooling. The reaction temperature of the mixture was elevated to ambient temperature and the mixture was stirred for 3 hours. An insoluble material was filtered off from the reaction mixture and the filtrate was concentrated under reduced pressure. After water was added to the residue, the mixture was extracted with ethyl acetate. The extract was washed with water and dried. The solvent was distilled off from the solution and the residue was subjected to column chromatography on silica gel, washed with benzene and eluted with a mixture of chloroform and ethyl acetate. The eluate was concentrated and the residue was treated with ethanol containing hydrochloric acid. The crystals obtained were recrystallized from a mixture of 99% ethanol and ether to give 1-(N-benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dibenzyloxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (1.4 g), mp 139° to 142° C.

reactant | 1-(N-Benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dibenzyloxy-3,4-dihydroisoquinoline | 7.0 g | C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)Cl)CC1=NCCC2=CC(=C(C=C12)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C38H33ClN2O4
reactant | sodium borohydride | 2.2 g | [BH4-].[Na+]
solvent | ethanol | 160 ml | C(C)O | C2H6O
product | 1-(N-benzyloxycarbonyl-p-chloroanilinomethyl)-6,7-dibenzyloxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.4 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)Cl)CC1NCCC2=CC(=C(C=C12)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | InChI=1S/C38H35ClN2O4.ClH/c39-32-16-18-33(19-17-32)41(38(42)45-27-30-14-8-3-9-15-30)24-35-34-23-37(44-26-29-12-6-2-7-13-29)36(22-31(34)20-21-40-35)43-25-28-10-4-1-5-11-28;/h1-19,22-23,35,40H,20-21,24-27H2;1H
